US08431581B2
6-Acetoxy-5-oxo-1,5-dihydro-imidazo[1,2-a]pyrimidine-7-carboxylic acid methyl ester (3 g, 11.95 mmol) was mixed with K2CO3 (3.3 g, 23.9 mmol), 18-crown-6 ether (0.3 g) and 2-Bromo-1-(3,5-dimethyl-piperidin-1-yl)-ethanone (4.2 g, 17.93 mmol) in acetonitrile (60 ml). The resulting mixture was stirred overnight at room temperature. The solvents were removed, and the residue taken up in ethylacetate; washed with water and 1N HCl. After drying over MgSO4, the organic phase was evaporated to dryness and the residue was purified on silica gel to give 6-acetoxy-1-[2-(3,5-dimethyl-piperidin-1-yl)-2-oxo-ethyl]-5-oxo-1,5-dihydro-imidazo[1,2-a]pyrimidine-7-carboxylic acid methyl ester (2.92 g, 60.5% yield).

reactant | 6-Acetoxy-5-oxo-1,5-dihydro-imidazo[1,2-a]pyrimidine-7-carboxylic acid methyl ester | 11.95 mmol, 3 g | COC(=O)C=1N=C2N(C(C1OC(C)=O)=O)C=CN2 | C10H9N3O5
reactant | K2CO3 | 23.9 mmol, 3.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 18-crown-6 ether | 0.3 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 2-Bromo-1-(3,5-dimethyl-piperidin-1-yl)-ethanone | 17.93 mmol, 4.2 g | BrCC(=O)N1CC(CC(C1)C)C | C9H16BrNO
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 6-acetoxy-1-[2-(3,5-dimethyl-piperidin-1-yl)-2-oxo-ethyl]-5-oxo-1,5-dihydro-imidazo[1,2-a]pyrimidine-7-carboxylic acid methyl ester | 2.92 g, 60.5% yield | COC(=O)C=1N=C2N(C(C1OC(C)=O)=O)C=CN2CC(=O)N2CC(CC(C2)C)C | C19H24N4O6
